US05126448
In 30 ml of ethanol was dissolved 487 mg of benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester and ammonia gas was slowly blown into the solution for 15 minutes under ice-cooling. After allowing the solution to stand for 3 days at room temperature, crystals thus deposited were collected by filtration to provide 410 mg (yield of 89%) of benzo[b]thieno[2,3-c]pyridine-3-carboamide.

reactant | benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester | 487 mg | C(C)OC(=O)C=1CSC23C(=NC=CC21)C=CC=C3 | C14H13NO2S
reactant | ammonia | N | H3N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | benzo[b]thieno[2,3-c]pyridine-3-carboamide | 410 mg, yield of 89% | S1CC(=C2C13C(=NC=C2)C=CC=C3)C(=O)N | C12H10N2OS
